US08614327B2
To a solution of 2-tert-butylaniline (1.0 g, 6.7 mmol) in toluene (15 mL) was added tetrahydrofuran-2,5-dione (0.81 g, 8.1 mmol) and the reaction mixture was refluxed for 1 h. The reaction mixture was cooled and filtered to obtain 4-(2-tert-butylphenylamino)-4-oxobutanoic acid, which was dissolved in acetic acid (20 mL) and sodium acetate (3.02 g, 36.86 mmol) and was stirred at 80° C. overnight. The reaction was quenched with water, the layers separated and the aqueous layer was extracted with DCM. The combined organic layer was dried over MgSO4, filtered and concentrated. The resulting solid was recrystallized from ethanol, to obtain pure 1-(2-tert-butylphenyl)pyrrolidine-2,5-dione (930 mg, 60%). LC/MS: m/z 232.3 (M+H)+ at 1.264 min (10%-99% CH3CN (0.035% TFA)/H2O (0.05% TFA)).

reactant | 2-tert-butylaniline | 6.7 mmol, 1.0 g | C(C)(C)(C)C1=C(N)C=CC=C1 | C10H15N
reactant | tetrahydrofuran-2,5-dione | 8.1 mmol, 0.81 g | O1C(CCC1=O)=O | C4H4O3
solvent | toluene | 15 mL | C1(=CC=CC=C1)C | C7H8
product | 4-(2-tert-butylphenylamino)-4-oxobutanoic acid | C(C)(C)(C)C1=C(C=CC=C1)NC(CCC(=O)O)=O | C14H19NO3
